US07838543B2
N-{2-[Methyl-(1-methyl-piperidin-4-yl)-amino]-benzooxazol-5-yl}-4-(2-methyl-thiazol-4-yl)-benzamide
Combine 4-(2-methyl-1,3-thiazol-4-yl)benzoic acid (55 mg, 0.251 mmol), TBTU (74 mg, 0.232 mmol), and N2-Methyl-N2-(1-methyl-piperidin-4-yl)-benzooxazole-2,5-diamine (46 mg, 0.177 mmol) in DMF (1.0 mL) and shake at room temperature. Add acetone (2.0 mL) a put the mixture on an SCX cartridge (previously conditioned with MeoH). Wash with acetone (3×3.0 mL) non basic impurities and then with MeOH (3×3.0 mL). Eluting with a 2N solution of NH3 in MeOH (4.0 ml) and concentrate to afford the title compound (87 mg, 100%). LC/MS, RT=4.45 min., mass spectrum (m/z) found (M+H)+: 462.2. The material is dissolved in MeOH and treated with 2M HCl in ether (2.0 mL). Organic solvent is removed in vacuo and the resulting precipitate is collected to give 96 mg of the hydrochloride salt.

reactant | 4-(2-methyl-1,3-thiazol-4-yl)benzoic acid | 0.251 mmol, 55 mg | CC=1SC=C(N1)C1=CC=C(C(=O)O)C=C1 | C11H9NO2S
reactant | TBTU | 0.232 mmol, 74 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | N2-Methyl-N2-(1-methyl-piperidin-4-yl)-benzooxazole-2,5-diamine | 0.177 mmol, 46 mg | CN(C=1OC2=C(N1)C=C(C=C2)N)C2CCN(CC2)C | C14H20N4O
reactant | acetone | 2.0 mL | CC(=O)C | C3H6O
solvent | DMF | 1.0 mL | CN(C)C=O | C3H7NO
product | N-{2-[Methyl-(1-methyl-piperidin-4-yl)-amino]-benzooxazol-5-yl}-4-(2-methyl-thiazol-4-yl)-benzamide | 87 mg, 100% | CN(C=1OC2=C(N1)C=C(C=C2)NC(C2=CC=C(C=C2)C=2N=C(SC2)C)=O)C2CCN(CC2)C | C25H27N5O2S
